US04954507
3-BENZYL-2,4-DIOXO-3,8-DIAZABICYCLO(3.2.1)OCTANE
A mixture of 3-benzyl-2,4-dioxo-8-methyl-3,8-diazabicyclo-(3.2.1)octane (U.S. Pat. No. 3,328,396) (1.05 g) and pyridinium hydrochloride (5 g) was heated in an oil-bath at 220° C. for 25 minutes. After cooling, the mixture was taken up with water (30 mL) and extracted with ether. The organic layer was dried over magnesium sulfate, evaporated to give 0.45 g of crude product which was chromatographed over silica gel using dichloromethane-ethyl acetate 80:20 as eluent to give 0.3 g of crystallized titled product. MP 72° C.

reactant | 3-benzyl-2,4-dioxo-8-methyl-3,8-diazabicyclo-(3.2.1)octane | C(C1=CC=CC=C1)N1C(C2CCC(C1=O)N2C)=O | C14H16N2O2
reactant | pyridinium hydrochloride | 5 g | Cl.[NH+]1=CC=CC=C1
solvent | water | 30 mL | O | H2O
product | 3-BENZYL-2,4-DIOXO-3,8-DIAZABICYCLO(3.2.1)OCTANE | 0.45 g | C(C1=CC=CC=C1)N1C(C2CCC(C1=O)N2)=O | C13H14N2O2
